US04032656
These reactions are carried out using readily available starting materials and give good yields of the end product. Thus, as shown above for the 1,4 di-substituted benzenes, dicyanohydroquinone is sequentially treated with the appropriate alkyl halide, sodium hydroxide, and acetic anhydride, to yield the corresponding phthalic anhydride, which is then reduced to the isobenzofuranol derivative. The latter is treated with the ylide derived from 5-carboxypentyltriphenylphosphonium bromide to give the cis-heptenoic acid. This derivative is esterified and hydrogenated to produce the corresponding saturated hydroxy ester. The ester is then oxidized and treated with the sodium salt of dimethyl(2-oxoheptyl)phosphonate to yield the enone. The enone compound is then reduced to the corresponding alcohol by reacting it with a suitable reducing agent such as potassium borohydride in a suitable organic solvent. The ester is converted to the acid by reacting it with an aqueous alcoholic potassium carbonate solution.

reactant | isobenzofuranol | C=1(OC=C2C=CC=CC12)O | C8H6O2
reactant | 5-carboxypentyltriphenylphosphonium bromide | [Br-].C(=O)(O)CCCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | cis-heptenoic acid | C(\C=C/CCCC)(=O)O | C7H12O2
